US05541347
A 60% suspension of sodium hydride in mineral oil (268.9 g, 6.72 mole, 1.5 eq.) was suspended in 2.8 L of dry THF under N2 and a solution (S)-1-(triphenylmethoxy)-4-penten-2-ol (1543 g, 4.48 mole) in 5.6 L of dry THP was added at room temperature. The resultant mixture was stirred at room temperature for 1.5 hours and then 770 mL (8.89 mole, 2.0 eq.) of freshly distilled allyl bromide was added over 20 minutes. The reaction was heated to 45° C. for 1-2 hours. The reaction mixture was cooled to 15°-20° C. and 2 L of an aqueous saturated solution of ammonium chloride was slowly added to quench the excess base. The resultant mixture was diluted with 1 L of ethyl acetate and 1 L of water and the organic layer was isolated. The aqueous layer was back-extracted with 500 mL of ethyl acetate and the combined organic layers were dried (MgSO4) and evaporated in vacuo to give 1867 g (98%) of (S)-1,1',1"-[[[2-(2-propenyloxy)-4-pentenyl]oxy]methylidyne]tris[benzene] as a yellow oil.

reactant | sodium hydride | [H-].[Na+]
reactant | (S)-1-(triphenylmethoxy)-4-penten-2-ol | 4.48 mole, 1543 g | C1(=CC=CC=C1)C(OC[C@H](CC=C)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H24O2
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 2.8 L | C1CCOC1 | C4H8O
product | (S)-1,1',1"-[[[2-(2-propenyloxy)-4-pentenyl]oxy]methylidyne]tris[benzene] | 1867 g, 98% | C(C=C)O[C@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC=C | C27H28O2
